US07618985B2
A mixture of 3-methoxy-4-methylbenzaldehyde (19.3 g, 0.129 mol), carbomethoxy methylene triphenylphosphorane (51 g) in toluene (250 ml) was refluxed for 24 h. The mixture was quenched with aqueous ammonium chloride and extracted with ethyl acetate and concentrated in vacuo to give a residue. The residue was purified by flash chromatography using ethyl acetate-heptane (1:1) to give 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester (27 g, 0.126 mol). A mixture of 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester (27 g), sodium hydroxide (14 g), water (70 ml), methanol (140 ml) and tetrahydrofuran (70 ml) was refluxed at 50° C. for 1 h. The mixture was concentrated in vacuo and then water added. The mixture was filtered and 5 M HCl was added until precipitation occurred. The mixture was filtered and the solid precipitate washed with water and dried in-vacuo to give 3-(3-methoxy-4-methylphenyl)acrylic acid (23.5 g, 0.122 mol).

reactant | 3-methoxy-4-methylbenzaldehyde | 0.129 mol, 19.3 g | COC=1C=C(C=O)C=CC1C | C9H10O2
reactant | carbomethoxy methylene triphenylphosphorane | 51 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester | 0.126 mol, 27 g | COC(C=CC1=CC(=C(C=C1)C)OC)=O | C12H14O3
